US06743794B2
(3-Amino-cyclohexylmethyl)-carbamic Acid Benzyl Ester
A solution of [3-(benzyloxycarbonylamino-methyl)-cyclohexyl]-carbamic acid tert-butyl ester (6 g, 16.6 mmol) in TFA (30 ml) was stirred for 1.5 h. The solution was concentrated using benzene to azeotrope, diluted with EtOAc, washed (1.0 N NaOH), dried (Na2SO4), filtered, and concentrated to afford the title compound (4.2 g, 97%) as a crude solid. Mass Spectrum (ES+) (m/z) 263.1 [M+1].

reactant | [3-(benzyloxycarbonylamino-methyl)-cyclohexyl]-carbamic acid tert-butyl ester | 16.6 mmol, 6 g | C(C)(C)(C)OC(NC1CC(CCC1)CNC(=O)OCC1=CC=CC=C1)=O | C20H30N2O4
solvent | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3-Amino-cyclohexylmethyl)-carbamic Acid Benzyl Ester | 4.2 g, 97% | C(C1=CC=CC=C1)OC(NCC1CC(CCC1)N)=O | C15H22N2O2
